US08754103B2
Step 3. Preparation of N-(4-(6-(2-(2-(4-chlorophenyl)acetyl)hydrazinyl)pyridazin-3-yl)phenyl)methanesulfonamide
To a suspension of 2-(4-chlorophenyl)acetic acid (1.07 mmole), HOBT (1.07 mmole), and EDCI hydrochloride (1.61 mmole) in DMF (7 mL) were added N-(4-(6-hydrazinylpyridazin-3-yl)phenyl)methanesulfonamide (1.07 mmole) in 10 mL of DMF followed by diisopropylethylamine (3.77 mmole). The resulting mixture was stirred at room temperature for 22 hours and evaporated in vacuo. The desired product N-(4-(6-(2-(2-(4-chlorophenyl)acetyl)hydrazinyl)pyridazin-3-yl)phenyl)methanesulfonamide was precipitated out from water.

reactant | 2-(4-chlorophenyl)acetic acid | 1.07 mmole | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | HOBT | 1.07 mmole | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI hydrochloride | 1.61 mmole | CCN=C=NCCCN(C)C.Cl
reactant | N-(4-(6-hydrazinylpyridazin-3-yl)phenyl)methanesulfonamide | 1.07 mmole | N(N)C1=CC=C(N=N1)C1=CC=C(C=C1)NS(=O)(=O)C | C11H13N5O2S
reactant | diisopropylethylamine | 3.77 mmole | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-(6-(2-(2-(4-chlorophenyl)acetyl)hydrazinyl)pyridazin-3-yl)phenyl)methanesulfonamide | ClC1=CC=C(C=C1)CC(=O)NNC1=CC=C(N=N1)C1=CC=C(C=C1)NS(=O)(=O)C | C19H18ClN5O3S
